US06656947B2
(8-Formyl-7-nitro-2,3-dihydro-1,4-benzodioxin-2-yl)methyl 4-methylbenzenesulfonate
{(2R)-7-Nitro-8-[1-propenyl]-2,3-dihydro-1,4-benzodioxin-2-yl}methyl 4-methylbenzenesulfonate (10.5 g, 25.9 mmole) dissolved in 400 mL of methylene chloride was treated with excess ozone at −78° C. Diisopropylethylamine (11.5 mL, 66.0 mmole) was then added dropwise over 30 min and the mixture allowed to come to room temperature and stir overnight under a nitrogen atmosphere. The mixture was then diluted to 600 mL with methylene chloride, washed three times with 100 mL portions of 2N HCl (aq), twice with 200 mL portions of saturated aqueous sodium bicarbonate and with 200 mL of saturated brine. The solution was dried over magnesium sulfate, filtered and concentrated in vacuum to a crude brown oil, which was column chromatographed on silica gel with 10% hexane/methylene chloride to give 7.52 g of the (R)-enantiomer of the title compound as a yellow solid. 1H-NMR (CDCl3): doublet 7.8 δ(2 H); doublet 7.62 δ(1 H); doublet 7.4 δ(2 H); doublet 7.0 δ(1 H); multiplet 4.4-4.6 δ(2 H); multiplet 4.2 δ(3 H); singlet 2.4 δ(3 H).

reactant | {(2R)-7-Nitro-8-[1-propenyl]-2,3-dihydro-1,4-benzodioxin-2-yl}methyl 4-methylbenzenesulfonate | 25.9 mmole, 10.5 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1COC2=C(O1)C(=C(C=C2)[N+](=O)[O-])C=CC | C19H19NO7S
reactant | ozone | O=[O+][O-] | O3
reactant | Diisopropylethylamine | 66.0 mmole, 11.5 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methylene chloride | 400 mL | C(Cl)Cl | CH2Cl2
product | (8-Formyl-7-nitro-2,3-dihydro-1,4-benzodioxin-2-yl)methyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCC1COC2=C(O1)C(=C(C=C2)[N+](=O)[O-])C=O | C17H15NO8S
